US06495576B2
3-Ethoxy-4-(3-fluoro-phenylamino)-cyclobut-3-ene-1,2-dione
A solution of 3-fluoroaniline and 3,4-diethoxy-3-cyclobutene-1,2-dione in ethanol was processed as described in Example IA to provide the title compound.

reactant | 3-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 3-Ethoxy-4-(3-fluoro-phenylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1NC1=CC(=CC=C1)F)=O)=O | C12H10FNO3
